US08685969B2
7-(2-Methoxyethoxy)-4-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-1-carboxamide
A mixture of 4-(3-amino-2-methylphenyl)-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indole-1-carboxamide (330 mg, 0.845 mmol), 1H-benzo[d][1,3]oxazine-2,4-dione (345 mg, 2.113 mmol), trimethoxymethane (0.926 mL, 8.45 mmol), and tris(nitrooxy)lanthanum, 6H2O (110 mg, 0.254 mmol) in tetrahydrofuran (Volume: 2 mL) was heated at 95° C. in a sealed vial for 20 hr. The mixture was diluted with ethyl acetate (100 mL), washed with water (30 mL), 1 N NaOH solution (30 mL), and brine (30 mL). The organic solution was dried over anhydrous MgSO4 and concentrated under vacuum. The residue was subjected to prep. reverse phase HPLC purification. The correct fractions were concentrated under vacuum, basified with saturated NaHCO3 solution, and extracted with ethyl acetate (3×35 mL). The combined extract was washed with brine (30 mL) and dried over anhydrous MgSO4. Removal of solvent under vacuum provided the desired product (188 mg, 0.362 mmol, 42.8% yield) as a yellow solid. The product is mixture of two atropisomers at rt. LCMS (M+H)+=520.29. 1H NMR (500 MHz, DMSO-d6) (recognizable peaks for the major atropisomer) δ: 11.68 (s, 1H), 8.44 (s, 1H), 8.21 (s, 1H), 7.36 (s, 1H), 7.25 (d, J=8.9 Hz), 4.17 (m, 2H), 3.73 (m, 2H), 3.35 (s, 3H), 1.81 (s, 3H).

reactant | 4-(3-amino-2-methylphenyl)-7-(2-methoxyethoxy)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.845 mmol, 330 mg | NC=1C(=C(C=CC1)C1=CN=C(C=2NC3=CC(=CC=C3C21)OCCOC)C(=O)N)C | C22H22N4O3
reactant | 1H-benzo[d][1,3]oxazine-2,4-dione | 2.113 mmol, 345 mg | N1C(OC(C2=C1C=CC=C2)=O)=O | C8H5NO3
reactant | trimethoxymethane | 8.45 mmol, 0.926 mL | COC(OC)OC | C4H10O3
reactant | tris(nitrooxy)lanthanum | [N+](=O)([O-])O[La](O[N+](=O)[O-])O[N+](=O)[O-]
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 7-(2-Methoxyethoxy)-4-(2-methyl-3-(4-oxoquinazolin-3(4H)-yl)phenyl)-9H-pyrido[3,4-b]indole-1-carboxamide | 0.362 mmol, 188 mg, 42.8% yield | COCCOC1=CC=C2C3=C(NC2=C1)C(=NC=C3C3=C(C(=CC=C3)N3C=NC1=CC=CC=C1C3=O)C)C(=O)N | C30H25N5O4
